US07011838B2
Using 0.37 g of (4-methoxybenzyl)malononitrile, 5 ml of N,N-dimethylformamide, 0.12 g of sodium hydride (60% in oil), and 0.25 g of 1-bromo-2-fluoroethane, and according to the process described in the Production Example 1, there was obtained 0.23 g of 2-(2-fluoroethyl)-2-(4-methoxybenzyl)malononitrile (the present compound (52)).

reactant | (4-methoxybenzyl)malononitrile | 0.37 g | COC1=CC=C(CC(C#N)C#N)C=C1 | C11H10N2O
reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 1-bromo-2-fluoroethane | 0.25 g | BrCCF | C2H4BrF
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(2-fluoroethyl)-2-(4-methoxybenzyl)malononitrile | 0.23 g, Yield: 49% | FCCC(C#N)(C#N)CC1=CC=C(C=C1)OC | C13H13FN2O
